US08809267B2
To 1-trifluoromethyl-cyclobutanol (2.2 g, 15 mmol) in dichloromethane (7.5 mL, 2M) was added pyridine (3 mL) and 4-nitrophenyl chloroformate (4 g, 18.3 mmol). The flask was sealed and stirred at room temperature for 2 days. The reaction was diluted with dichloromethane (50 mL) and washed with 1M KHSO4(aq), saturated sodium bicarbonate, water, and brine. The organic layer was dried over sodium sulfate and concentrated in vacuo. Purification by flash column chromatography (gradient elution with 10% to 40% EtOAc in hexane) gave 2.2 g (48% yield) of carbonic acid 4-nitro-phenyl ester 1-trifluoromethyl-cyclobutyl ester as a colorless oil. 1H NMR (CDCl3, 400 MHz) δ 8.35 (d, 2H), 7.50 (d, 1H), 2.78-2.85 (m, 2H), 2.58-2.70 (m, 2H), 1.9-2.1 (m, 2H).

reactant | 1-trifluoromethyl-cyclobutanol | 15 mmol, 2.2 g | FC(C1(CCC1)O)(F)F | C5H7F3O
reactant | pyridine | 3 mL | N1=CC=CC=C1 | C5H5N
reactant | 4-nitrophenyl chloroformate | 18.3 mmol, 4 g | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
solvent | dichloromethane | 2M, 7.5 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | carbonic acid 4-nitro-phenyl ester 1-trifluoromethyl-cyclobutyl ester | 2.2 g, 48% yield | FC(C1(CCC1)OC(OC1=CC=C(C=C1)[N+](=O)[O-])=O)(F)F | C12H10F3NO5
